US07589206B2
d) Ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
Prepared in a similar manner to Example 243(e) using ethyl 1-{[4-(methyloxy)phenyl]methyl}-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (14.45 g) and phenyl dichlorophosphate (100 ml) to afford the title compound as a yellow oil (7.2 g).

reactant | ethyl 1-{[4-(methyloxy)phenyl]methyl}-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 14.45 g | COC1=CC=C(C=C1)CN1C=CC=2C(NC=C(C21)C(=O)OCC)=O | C18H18N2O4
reactant | phenyl dichlorophosphate | 100 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
product | Ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 7.2 g | ClC1=NC=C(C2=C1C=CN2CC2=CC=C(C=C2)OC)C(=O)OCC | C18H17ClN2O3
